US09278915B2
Intermediate 5: 3-{4-[(3-Benzoylbenzyl)amino]phenyl}propanoic acid
To a 250 mL RB flask fitted with magnetic stirrer was charged 25 mL of DMF. To the stirred solvent was added 3-(4-Amino-phenyl)-propanoic acid (0.6 g, 3.635 mmol) followed by K2CO3 (1.507 g, 10.905 mmol) and the mixture stirred at RT for 30 minutes. To the resulting mixture was added (3-bromomethyl-phenyl)-phenyl-methanone (1.0 g, 3.635 mmol) and the stirring continued at RT for further 20 h. After completion of the reaction (reaction monitored by TLC), solvent was removed under reduced pressure, and the resulting crude compound was dissolved in water (15 mL). This aqueous layer was acidified with saturated citric acid solution in water (1.5 g in 3 mL water) to pH 5. The compound was obtained after extracting the residue with diethyl ether (100 mL×3). The combined ether layer was washed with saturated brine solution (50 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The crude mass thus obtained was purified by column chromatography on silica gel (100/200 mesh), using petroleum ether (60-80) and ethyl acetate as eluent. The product was obtained as brown sticky solid (0.3 g, Yield: 22.9%): MS (ESI, 120 eV): m/z=360.1 (M+H)+; 1H NMR (300 MHz, DMSO-d6): δ 12.04 (s, 1H), 7.72 (s, 1H), 7.64-7.68 (t, 4H), 7.57-7.60 (d, 1H), 7.48-7.54 (m, 3H), 6.89-6.91 (d, 2H), 6.46-6.49 (d, 2H), 6.18-6.22 (t, 1H), 4.32-4.34 (d, 2H), 2.61-2.66 (d, 2H), 2.38-2.43 (d, 2H).

reactant | 3-(4-Amino-phenyl)-propanoic acid | 3.635 mmol, 0.6 g | NC1=CC=C(C=C1)CCC(=O)O | C9H11NO2
reactant | K2CO3 | 10.905 mmol, 1.507 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (3-bromomethyl-phenyl)-phenyl-methanone | 3.635 mmol, 1.0 g | BrCC=1C=C(C=CC1)C(=O)C1=CC=CC=C1 | C14H11BrO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3-{4-[(3-Benzoylbenzyl)amino]phenyl}propanoic acid | 0.3 g, Yield: 22.9% | C(C1=CC=CC=C1)(=O)C=1C=C(CNC2=CC=C(C=C2)CCC(=O)O)C=CC1 | C23H21NO3
